** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/tb_6ph_rosc_pex.sch
**.subckt tb_6ph_rosc_pex
Vdd4 vc_pex GND 0.9
Vdd3 vss_pex GND 0
Vdd1 vdd_pex GND 1.2
x2 vc_pex v0_pex v3_pex v2_pex v5_pex v4_pex v1_pex vss_pex vdd_pex 6ph_rosc_pex
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
*.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice



.inc /foss/designs/PhaseInterpolator/Clock_Gen/6ph_rosc_pex.spice



.options rshunt = 1e12
.save v(v0) v(v1) v(v2) v(v3) v(v4) v(v5) v(v6) v(v0_pex) v(v1_pex) v(v2_pex) v(v3_pex) v(v4_pex) v(v5_pex) v(v6_pex)
.tran 2p 20n

.control
run
set color0=white
set filetype = ascii
write 6ph_rosc_pex.raw

*let period_0 = T0
*let period_1 = T1
*let period_2 = T2


meas tran T0 TRIG v(v0) VAL=0.6 RISE=5 TARG v(v0) VAL=0.6 RISE=6
meas tran T0_pex TRIG v(v0_pex) VAL=0.6 RISE=5 TARG v(v0_pex) VAL=0.6 RISE=6

let freq_0 = 1/T0
let freq_0_pex = 1/T0_pex

plot freq_0 freq_0_pex

.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
